US05641788
A mixture of 3-acetyl-2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline (1.5 g), morpholine (1.42 g) and dichloromethane (30 ml) was stirred at room temperature for 15 hours. The reaction mixture was washed with water, dried over magnesium sulfate, and the solvent was evaporated. The residue was subjected to column chromatography on silica gel. The fractions eluted with chloroform gave 3-acetyl-4-(3,4-dimethoxyphenyl)-2-morpholino-methyl-6,7-dimethoxyquinoline (1.1 g, 72%). This compound was recrystallized from ethyl acetate-hexane to give colorless prisms, mp. 197°-199° C.

reactant | 3-acetyl-2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline | 1.5 g | C(C)(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)CBr | C22H22BrNO5
reactant | morpholine | 1.42 g | N1CCOCC1 | C4H9NO
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-acetyl-4-(3,4-dimethoxyphenyl)-2-morpholino-methyl-6,7-dimethoxyquinoline | 1.1 g, 72% | C(C)(=O)C=1C(=NC2=CC(=C(C(=C2C1C1=CC(=C(C=C1)OC)OC)C)OC)OC)N1CCOCC1 | C26H30N2O6
